US08623889B2
N-(7-(5-chloro-2-methoxyphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (150 mg, 0.595 mmol), 5-chloro-2-methoxyphenylboronic acid (132 mg, 0.714 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (24 mg, 0.03 mmol) and cesium carbonate (232 mg, 0.714 mmol) were mixed in acetonitrile and water (10:1, 20 mL). The reaction mixture was stirred at 120° C. under nitrogen for 6 hours. The reaction mixture was concentrated, diluted with water and extracted with ethyl acetate, concentrated and purified by prep-HPLC to give the desired product (21.3 mg, 10.2%). LCMS (ESI): RT (min)=1.216, M+H+=352.9, Method=I; 1H NMR (400 MHz, DMSO-d6) δ 10.93 (s, 1H), 9.14 (s, 1H), 8.46 (s, 1H), 8.12 (s, 1H), 7.84-7.42 (m, 4H), 7.18 (d, J=8.4 Hz, 1H), 3.78 (s, 3H), 2.09-2.05 (m, 1H), 0.88-0.83 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.595 mmol, 150 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 5-chloro-2-methoxyphenylboronic acid | 0.714 mmol, 132 mg | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | cesium carbonate | 0.714 mmol, 232 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(7-(5-chloro-2-methoxyphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 21.3 mg, 10.2% | ClC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)OC | C20H17ClN2O2
